US04610991
Piperidine (1.63 liter) was added over a period of 30 minutes to a slurry of 2.5 kg isatoic anhydride in 12.5 liters of toluene. The reaction mixture was stirred for 20 minutes and extracted four times with 5 liters of 1.2N hydrochloric acid. The extracts were made basic and the product extracted with 12.5 liters of isopropyl acetate. The organic layer was washed with water and saturated sodium chloride solution and then concentrated to a thick slurry with a volume of 4 liters. The solid product was collected, washed with cold isopropyl acetate and dried overnight in vacuo to give 2.22 kg of 1-(2-aminobenzoyl)piperidine. Concentration of the filtrate afforded a second crop of 0.23 kg.

reactant | Piperidine | 1.63 liter | N1CCCCC1 | C5H11N
reactant | isatoic anhydride | 2.5 kg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | toluene | 12.5 liters | C1(=CC=CC=C1)C | C7H8
product | 1-(2-aminobenzoyl)piperidine | 2.22 kg | NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C12H16N2O
